US08217032B2
[4-(2-Azepan-1-yl-ethoxy)-phenyl]-[2-(2,4-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-methanone
Couple trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxynaphthalen-2-yl ester (1.4 g, 2.5 mmol) and 2,4-difluorophenyl boronic acid (1.2 g, 7.6 mmol) by the procedure described for the preparation of 2-(2,4-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone to give 1.1 g (85%) of the title compound: mass spectrum (ion spray) m/z=516.3 (M+H).

reactant | trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxynaphthalen-2-yl ester | 2.5 mmol, 1.4 g | N1(CCCCCC1)CCOC1=CC=C(C(=O)C2=C(C=CC3=CC(=CC=C23)OC)OS(=O)(=O)C(F)(F)F)C=C1 | C27H28F3NO6S
reactant | 2,4-difluorophenyl boronic acid | 7.6 mmol, 1.2 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | [4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | N1(CCCCC1)CCOC1=CC=C(C=C1)C=O | C14H19NO2
product | [4-(2-Azepan-1-yl-ethoxy)-phenyl]-[2-(2,4-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-methanone | 1.1 g, 85% | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(C=CC2=CC(=CC=C12)OC)C1=C(C=C(C=C1)F)F | C32H31F2NO3
